US08461339B2
4-[2-(Isoquinolin-3-ylamino)-pyridin-4-ylmethyl]-piperazine-1-carboxylic acid methylamide
1-(2-Chloro-pyridin-4-ylmethyl)-4-(N-methylcarbamoyl)piperazine (1.0 equiv) (Preparation B-12) was mixed with 3-aminoisoquinoline (1.0 equiv), Pd2(dba)3 (0.1 equiv), xantphos (0.15 equiv), and Cs2CO3 (1.4 equiv) in toluene. The mixture was refluxed overnight, and EtOAc was added in to dilute the mixture. After filtration, the filtrate was concentrated and applied onto a silica gel column. The title compound was obtained as a yellow solid (63 mg, 28% yield): 1H NMR (CDCl3, 300 MHz) δ: 2.49 (t, J=4.4 Hz, 4H, PyridylCH2NCH2CH2), 2.83 (s, 6H, N(CH3)2), 3.29 (t, J=4.8 Hz, 4H, NCH2CO), 3.52 (s, 2H, pyridylCH2), 6.88-8.98 (m, 9H, isoquinolyl+pyridyl).

reactant | 1-(2-Chloro-pyridin-4-ylmethyl)-4-(N-methylcarbamoyl)piperazine | 1.0 equiv | ClC1=NC=CC(=C1)CN1CCN(CC1)C(NC)=O | C12H17ClN4O
reactant | 3-aminoisoquinoline | 1.0 equiv | NC=1N=CC2=CC=CC=C2C1 | C9H8N2
reactant | xantphos | 0.15 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.4 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[2-(Isoquinolin-3-ylamino)-pyridin-4-ylmethyl]-piperazine-1-carboxylic acid methylamide | CNC(=O)N1CCN(CC1)CC1=CC(=NC=C1)NC=1N=CC2=CC=CC=C2C1 | C21H24N6O
